US07365065B2
A solution of tert-butyl(1-(4-(1,2,3,4-tetrahydroquinoline-1-carbonyl)thiazol-2-yl)ethyl)-carbamate (180 mg, 0.47 mmol) in 4N hydrogen chloride/dioxan (10 ml) was stirred in an ice/water bath and allowed to warm to room temperature. The mixture was concentrated and azeotroped with toluene twice, tetrachloromethane twice and dichloromethane once to afford 1-(2-(1-aminoethyl)thiazole-4-carbonyl)-1,2,3,4-tetrahydroquinoline hydrochloride. The yield was assumed to be quantitative and the material was used directly by taking up in dichloromethane (5 ml) and triethylamine (0.16 ml, 118 mg, 1.2 mmol). The resulting solution was cooled in an ice/water bath and to it was added 4-bromobenzenesulphonyl chloride (119 mg, 0.47 mmol). The mixture was allowed to warm to room temperature and stirred for 18 h. Evaporation and chromatography (50% EtOAc/50% hexanes) afforded 1-(2-(1-(4-bromobenzenesulphonylamino)ethyl)thiazole-4-carbonyl)-1,2,3,4-tetrahydroquinoline as a white solid (144 mg, 61%).

reactant | tert-butyl(1-(4-(1,2,3,4-tetrahydroquinoline-1-carbonyl)thiazol-2-yl)ethyl)-carbamate | 0.47 mmol, 180 mg | C(C)(C)(C)OC(NC(C)C=1SC=C(N1)C(=O)N1CCCC2=CC=CC=C12)=O | C20H25N3O3S
reactant | hydrogen chloride dioxan | 4N, 10 ml | Cl.O1CCOCC1
product | 1-(2-(1-aminoethyl)thiazole-4-carbonyl)-1,2,3,4-tetrahydroquinoline hydrochloride | Cl.NC(C)C=1SC=C(N1)C(=O)N1CCCC2=CC=CC=C12 | InChI=1S/C15H17N3OS.ClH/c1-10(16)14-17-12(9-20-14)15(19)18-8-4-6-11-5-2-3-7-13(11)18;/h2-3,5,7,9-10H,4,6,8,16H2,1H3;1H
